US09108969B2
Step A: Preparation of tert-Butyl 2-(7-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-cyclopropyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate
To a solution of tert-butyl 2-(7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-iodo-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (50.0 mg, 0.078 mmol) in THF (1 mL) in a 2.0 mL heavy-walled sealed microwave tube under N2 was added cyclopropylzinc(II) bromide (0.5 M solution in THF, 0.219 mL, 0.109 mmol) and bis(tri-t-butylphosphine)palladium(0) (3.60 mg, 7.04 μmol). The reaction mixture was heated to 70° C. for 2 h, quenched with saturated NaHCO3 and filtered by vacuum filtration through Celite®. The Celite® was washed with EtOAc (2×5 mL). The filtrate was extracted with EtOAc (3×5 mL). The organic layers were combined and washed with saturated NaCl (10 mL), dried over MgSO4, filtered by vacuum filtration. The filtrate was concentrated under reduced pressure. The residue was purified by preparative TLC to give the title compound as a amber oil (9.2 mg). LCMS m/z=554.6 [M+H]+.

reactant | tert-butyl 2-(7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-iodo-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 0.078 mmol, 50.0 mg | C1(CCCC1)C1=C(C=C(COC2=CC=3C(=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)I)C=C1)C(F)(F)F | C30H33F3INO3
reactant | cyclopropylzinc(II) bromide | 0.109 mmol, 0.5 M, 0.219 mL | [Br-].C1(CC1)[Zn+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | bis(tri-t-butylphosphine)palladium(0) | 7.04 μmol, 3.60 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | tert-Butyl 2-(7-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-cyclopropyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 9.2 mg | C1(CCCC1)C1=C(C=C(COC2=CC=3C(=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)C4CC4)C=C1)C(F)(F)F | C33H38F3NO3
